US07157488B2
By the method of J. Med. Chem. 1990, 33, 2777), add dropwise 2-chloroaniline (5.8 g, 45.45 mmol) in anhydrous toluene (80 mL) to a cold 1M solution of BCl3 (50 mL) in dichloromethane. After addition, allow the reaction to stir at 0° C. for 10 minutes. After 10 minutes at 0° C., add chloroacetonitrile (13.72 g, 11.53 mL, 181.8 mmol, 4 eq) and aluminum trichloride (6.67 g, 50 mmol, 1.1 eq) in 5 equal portions over 45 minutes and then heat to reflux (˜65° C.). After 6 hours, cool to room temperature. After 16 hours, cool the reaction in an ice bath and add 2N HCl (61.4 mL) and then heat the reaction to reflux. After 45 minutes, cool in an ice bath, neutralize the acid with 2N NaOH keeping the temperature of the reaction below 15° C. until the pH is about 5. Transfer the reaction to a separatory funnel and remove the organic layer. Extract the aqueous layer with dichloromethane (2×200 mL). Combine the organic layers, dry over MgSO4, filter, and remove the solvent in vacuo to give 1-(2-amino-3-chlorophenyl)-2-chloroethanone which may be used without further purification.

reactant | 2-chloroaniline | 45.45 mmol, 5.8 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | BCl3 | 50 mL | B(Cl)(Cl)Cl | BCl3
reactant | chloroacetonitrile | 181.8 mmol, 11.53 mL, 13.72 g, 4 eq | ClCC#N | C2H2ClN
reactant | aluminum trichloride | 50 mmol, 6.67 g, 1.1 eq | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 2N, 61.4 mL | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-amino-3-chlorophenyl)-2-chloroethanone | NC1=C(C=CC=C1Cl)C(CCl)=O | C8H7Cl2NO
